US07772243B2
7.1 g of (3-Chloro-4-fluoro-phenyl)-(7-methoxy-6-nitro-quinazolin-4-yl)-amine was reduced using Raney nickel catalyst in THF, then filtered and evaporated to give 6.4 g N4-(3-Chloro-4-fluoro-phenyl)-7-methoxy-quinazoline-4,6-diamine (99% yield). This product was reacted with 4-Chloro-but-2-enoyl chloride as described in Scheme 1 to provide 4-Chloro-but-2-enoic acid [4-(3-chloro-4-fluoro-phenylamino)-7-methoxy-quinazolin-6-yl]-amide.

reactant | (3-Chloro-4-fluoro-phenyl)-(7-methoxy-6-nitro-quinazolin-4-yl)-amine | 7.1 g | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])OC | C15H10ClFN4O3
catalyst | Raney nickel | [Ni] | Ni
solvent | THF | C1CCOC1 | C4H8O
product | N4-(3-Chloro-4-fluoro-phenyl)-7-methoxy-quinazoline-4,6-diamine | 6.4 g, 99% yield | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)N)OC | C15H12ClFN4O
